US05811459
To a suspension of 3-hydroxy-2-hydroxymethylpyridine hydrochloride (7.0 g, 12.4 mmol) in ethanol (37.5 ml) was added a solution of KOH pellets (85% 1.6 g, 24.7 mmol) in ethanol (25 ml). The reaction was stirred for 5 minutes at ambient temperature and then benzyl bromide was added (2.11 g, 12.36 mmol). The reaction mixture was stirred at ambient temperature for 48 hours, filtered and evaporated. The residue was purified by chromatography (EtOAc, CH2Cl2) to give 3-benzyloxy-2-hydroxymethylpyridine as a colourless solid (1.55 g, 58%) [J. Med. Chem., 15, (1972) 615] m.p. 78.7°-79.2° C.

reactant | 3-hydroxy-2-hydroxymethylpyridine hydrochloride | 12.4 mmol, 7.0 g | Cl.OC=1C(=NC=CC1)CO
reactant | KOH | [OH-].[K+]
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol | 37.5 ml | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 3-benzyloxy-2-hydroxymethylpyridine | 1.55 g, 58% | C(C1=CC=CC=C1)OC=1C(=NC=CC1)CO | C13H13NO2
